Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Aspirin
 
Attending: ___.
 
Chief Complaint:
Non-healing ulcers draining foul smelling material
 
Major Surgical or Invasive Procedure:
Debridement of back and left buttock ulcers

 
History of Present Illness:
Mr. ___ is a ___ yo M cocaine user with T10 paraplegia and 
h/o pseudomonas and MRSA abscesses, here with draining buttock 
ulcers.

He first noticed a back and buttock sore two months ago.  He 
came to the BI, where he was ruled out for epidural abscess and 
osteomyelitis.  His culture came back bactrim sensitive MRSA, 
and he was discharged on a course of bactrim.  He completed the 
course, but his buttock ulcers have gotten worse.  They are 
leaking foul smelling material.  He also noted that he has had 
fever during the last few weeks, and that he has had a 25 lb 
weight loss over the last month.  He has had low appetite, but 
is hungry now. He has previously had a pseudomonal prostatic 
abscess, but has not otherwise had abscesses.
.
In the ED, initial vs were: T 100.7  P ___ BP 142/70 R 18 O2 sat 
100%RA. 
His U/A was positive for WBC ___, occasional bacteria, trace 
___, trace ketones. ___ and urine cultures were taken. He 
had penile discharge with straight cath.  He was given 3 g of 
unasyn and 1 g of vancomycin. CT of the abdomen showed no 
evidence of abscess or osteomyelitis.  He had an elevated white 
count (11.1) and elevated eosinophils (4.7).
.
On the floor, he was comfortable in bed and feeling ok, but 
discouraged about his social situation. He has back pain.  He 
notes that he has a lot of phlegm and has been coughing green 
sputum. He denied headache, SOB, CP, abdominal pain, nausea.  
His last BM was yesterday. He had noted no problem with his 
limbs or joints.
 
Past Medical History:
PMH: 
Smoker
erectile dysfunction
prostate abscess
recurrent UTI
T10 paraplegia
h/o pseudomonas skin abscess

 
Social History:
___
Family History:
Sister with depression

No family history of DM, heart disease or cancer
 
Physical Exam:
On admission -
Vitals: T: 99.3 BP: 107/65 P: 96 R: 18 O2:  96
General: Alert, oriented, no acute distress 
HEENT: MMM, oropharynx clear
Neck: no LAD
Lungs: CTAB
CV: RRR no m/r/g
Abdomen:  soft, mildly tender in the LUQ, non-distended, bowel 
sounds present, no rebound tenderness or guarding, no 
organomegaly
Ext: 1+ DP pulses, thickened nails.  Pustule on L lateral knee 
with surrounding erythema. Open non-draining ulcer in R groin. 
Open pustule on R wrist, tender to touch. Midline back ulcer and 
Left buttock ulcer c/d/i. Granulation tissue starting.  No 
evidence of pus or erythema on back ulcer. Left buttock ulcer 
has some yellow drainage.

 
Pertinent Results:
Admission labs:
___ 10:35PM 
WBC-11.1 Hgb-11.3* Hct-35.0* MCV-91 MCH-29.3 MCHC-32.3 RDW-13.0 
Plt ___
Neuts-66.0 ___ Monos-6.6 Eos-4.7* Baso-0.3
ESR-37*
Na-140 K-3.7 Cl-100 HCO3-29 UreaN-9 Creat-0.7 Glucose-104  
Lactate-2.5*

___ 01:00PM ___ 
ALT-55* AST-43* AlkPhos-73 TotBili-0.4

Discharge Labs:
                       ___ RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 06:36AM    8.5 3.70* 11.0* 35.6* 96 29.6 30.8* 13.4 
544* 

___ Urine culture <3000 colonies
___ ___ culture no growth

___ Wound swab (L buttock)
GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      2+   ___ per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI IN PAIRS 
AND
      CHAINS. 
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S). 

   WOUND CULTURE (Final ___: 
      Due to mixed bacterial types (>=3) an abbreviated workup 
is
      performed; P.aeruginosa, S.aureus and beta strep. are 
reported if
      present. Susceptibility will be performed on P.aeruginosa 
and
      S.aureus if sparse growth or greater.. 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Staphylococcus species may develop resistance during 
prolonged
         therapy with quinolones.   Therefore, isolates that are 
initially
         susceptible may become resistant within three to four 
days after
         initiation of therapy.  Testing of repeat isolates may 
be
         warranted. 
         Please contact the Microbiology Laboratory (___) 
immediately if
         sensitivity to clindamycin is required on this 
patient's isolate. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations 
Rifampin
         should not be used alone for therapy. 
      BETA STREPTOCOCCI, NOT GROUP A.    SPARSE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------  0.25 S
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------   <=1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ Urine GC and Chlamydia PCR neg

Imaging:
___ CT Abd and Pelvis, final read
IMPRESSION: 
1. Left posterior buttock soft tissue swelling and increased 
density 
consistent with phlegmon with skin defect. No focal fluid 
collection which is drainable. This extends to the anus. There 
is no definite involvement of the rectum. A small amount of 
perirectal fat stranding is identified. 
2. Bilateral pelvic and inguinal lymph nodes as described above. 
These may 
be reactive. No evidence of bony involvement. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo M cocaine user with T10 paraplegia and a 
history of MRSA infected ulcer who presents with a bilateral 
buttock ulcers and back wound. 

#Ulcers:  Mr. ___ had a stage II ulcer on his midline back and 
a stage III ulcer on his L buttock. He was started on unasyn 3g 
Q6H and vancomycin 1g Q12H on the morning of ___, and his 
vancomycin dose was adjusted to 1250mg after adjustment 
according to his troughs (9.6 and 14.2).  His wounds were 
debrided in the OR on ___. After surgery, he had arterial 
oozing from his L buttock wound, so surgery put in a stitch on 
the floor. Antibiotic sensitivities showed that his buttock 
wound was infected with MRSA, strep, and gram negatives.  
Infectious disease was consulted and he was discharged on 
Levofloxacin 500 mg PO QD and Flagyl 500 mg PO TID with an 
appointment in 2 weeks with infectious disease to determine 
whether to continue the course. He requires aggressive wound 
care and a bowel regimen. He will also follow up with surgery as 
an outpatient and continue BID wound care until that time. 
.
#Homeless: Mr. ___ girlfriend's father found out he was 
living with her and he is now homeless.  He has been staying in 
shelters. He needs help with self care of his wounds, and has 
not been able to get this in his current situation.
.
#Substance use:  Mr. ___ uses tobacco and cocaine.  He used 
$150 of cocaine a few days before admission.  He was given a 
nicotine patch which was discontinued because he goes off floor 
to smoke. His urine tox screen was positive for cocaine. Social 
work was consulted.
.
#Recurrent UTI: Pus was seen on self catheterization. Urine 
culture 3000 colonies (negative). Urine gonorrhea and chlamydia 
were negative.
.
#Urinary frequency: Mr. ___ dribbles urine so that his buttock 
wound becomes wet.  He was given self catheterization teaching 
and his home regimen of oxybutynin was continued.
.
#weight loss: Mr. ___ lost 25lb in one month, so he was 
started on ensure TID. The weight loss was likely due to 
decreased po intake in the setting of cocaine use.
.
#Depression: Mr. ___ says his mood fluctuates. He currently is 
homeless and lost his job. He had not been taking his psych 
medications.  We restarted his Wellbutrin at 150 mg QD and then 
increased it to his usual BID dosing on ___.  His Concerta was 
restarted at 2.5 mg QAM and increased to 7.5mg daily on ___.  
His home Concerta dose is 36.  This can be uptitrated as 
necessary every 4 days.  SERIOUS CONSIDERATION SHOULD TAKE PLACE 
PRIOR TO HIM LEAVING REHAB AS IT WOULD BE DANGEROUS FOR HIM TO 
TAKE CONCERTA IF HE BEGINS TO SNIFF COCAINE AGAIN.
.
#Phlegm, green sputum: Stable during admission.
.
#T10 spinal injury: Mr. ___ is paraplegic with sensation to 
hips. He was continued on baclofen for spasticity.
.
#Chronic back pain: Mr. ___ has chronic back pain that was 
treated during admission with Neurontin, percocet, and tramadol. 
 He appeared to be drug seeking, infrequently taking his 
neurontin and asking for methadone or morphine.  We continued 
him on his home dose of percocet.  He should only be supplied 
with a week supply of percocet ___ tabs q 4hrs during the day 
only (not to exceed 4 grams of tylenol in 24hrs).
.
#Dizziness: Mr. ___ complained of some dizziness on admission 
but it was self limited and did not recurr.  He was not 
orthostatic.
.
#Anemia: Mr. ___ HCT had an initial dilutional drop from 35 to 
31.  His HCT increase to 37.6 during the admission. He has 
history of hemorrhoids and ___ per rectum. We deferred work up 
of his anemia to his outpatient provider.
. 
FEN: 
He was given ensure supplements with meals.  His bowel regimen 
was colace and Senna.
. 
Prophylaxis:He was on Heparin subcutaneous.  He is on an 
aggressive bowel regimen.
. 
Code:  Full (discussed with patient)
. 
Communication: Patient's emergency contacts are Mother ___ 
___ ___ and his girlfriend ___ ___.
 
___ on Admission:
-Gabapentin 400 mg Capsule Sig: Two (2) Capsule PO Q6H (every
6 hours) as needed for chronic pain for 10 days
-Baclofen 10 mg Tablet Sig: Two (2) Tablet PO TID (3 times a
day).
-Bupropion HCl 150 mg Tablet Sustained Release Sig: One (1)
Tablet Sustained Release PO BID (2 times a day).
-Tramadol 50 mg Tablet Sig: One (1) Tablet PO QID (4 times a
day).
-Concerta 27 mg Tab,Sust Rel Osmotic Push 24hr Sig: One (1)
Tab,Sust Rel Osmotic Push 24hr PO once a day.
-Oxybutynin Chloride 10 mg Tab,Sust Rel Osmotic Push 24hr
Sig: One (1) Tab,Sust Rel Osmotic Push 24hr PO once a day for 7
days:
-Percocet ___ mg Tablet Sig: ___ Tablets PO four times a
day as needed for pain for 7 days. 
 
Discharge Medications:
1. Gabapentin 400 mg Capsule Sig: Two (2) Capsule PO Q6H (every 
6 hours) as needed for pain.  
2. Baclofen 10 mg Tablet Sig: Two (2) Tablet PO TID (3 times a 
day) as needed for pain.  
3. Tramadol 50 mg Tablet Sig: One (1) Tablet PO QID (4 times a 
day).  
4. Oxybutynin Chloride 10 mg Tab,Sust Rel Osmotic Push 24hr Sig: 
One (1) Tab,Sust Rel Osmotic Push 24hr PO daily ().  
5. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
every six (6) hours as needed for pain for 7 days.  
6. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1) sc 
Injection TID (3 times a day).  
7. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day): hold for loose stool.  
8. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation: to maintain 1BM daily.  
9. Bupropion HCl 150 mg Tablet Sustained Release Sig: One (1) 
Tablet Sustained Release PO BID (2 times a day).  
10. Methylphenidate 5 mg Tablet Sig: 1.5 Tablets PO QAM (once a 
day (in the morning)).  
11. Levofloxacin 500 mg Tablet Sig: One (1) Tablet PO Q24H 
(every 24 hours) for 2 weeks: or until infectious disease follow 
up appointment.  
12. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours) for 2 weeks: or until follow up appointment with 
infectious disease.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
Left buttock stage III ulcer
Right buttock stage II ulcer
Mid back stage II ulcer
Mid back healing ulcer
Right groin healing ulcer
Substance abuse

Secondary diagnosis:
Recurrent UTI
T10 paraplegia ___ gunshot wound

 
Discharge Condition:
You were stable at discharge.

Full code

Patient's emergency contacts are Mother ___ ___ and his girlfriend ___ ___.

 
___ Instructions:
You were admitted to the hospital because you had non-healing 
ulcers that were draining.  You were treated with the 
antibiotics vancomycin and unasyn and your wounds were debrided 
in the operating room.  Your wounds were cared for with dressing 
changes and you were evaluated by the wound care service here.  
While you were here we re-started your psychiatric medications 
wellbutrin and concerta. Your wounds improved while you were 
here. We will discharge you on the oral antibiotics levofloxacin 
and flagyl.

It is important that you follow up with an infectious disease 
doctor to manage your antibiotics.  It is also important for you 
to meet with a surgeon to evaluate your wounds.  You should also 
follow up with your psychiatrist to manage your psychiatric 
medications. Finally, please meet with your primary care doctor 
to to manage your pain medications. Please see below for the 
appointments we have scheduled for you.

We started you on the following medications:
-flagyl
-levofloxacin
-heparin sc
-colace
-senna

We changed the doses of the following medications:
-Concerta 5 mg take 1.5 tablets by mouth once a day (you are not 
yet at your previous home dose)

We stopped the following medications:
-none

We continued the following medications:
-Gabapentin 400 mg Capsule Two (2) by mouth every 6 hours) as 
needed for chronic pain
-Baclofen 10 mg Tablet Two (2) Tablet by mouth 3 times a day 
-Bupropion HCl 150 mg Tablet Sustained Release One (1)by mouth 2 
times a day
-Tramadol 50 mg Tablet One (1) Tablet by mouth 4 times a day as 
needed for pain  
-Oxybutynin Chloride 10 mg Tab,Sust Rel Osmotic Push 24hr  One 
(1) Tab once a day
-Percocet ___ mg Tablet ___ Tablets by mouth every 24 hours as 
needed for pain during the day (not to exceed 4 grams of tylenol 
in 24 hrs)
Aquacel-AG bandages

Please return to the hospital or contact your physician if you 
develop fevers, bad smelling drainage from your wounds, 
worsening wounds, shortness of breath, chest pain or any other 
concerning symptoms.
 
Followup Instructions:
___